US07384982B2
Preparation of N-(5-chlorosalicylovl)-8-aminocaprylic Acid (5-CNAC)
Ethyl 8-(6-chloro-2H-1,3-benzoxazine-2,4(3H)-dionyl)octanoate (641 g, 1.7 mol) and ethyl alcohol (3200 ml) were added to a 22 liter, five neck flask. In a separate 5 liter flask, sodium hydroxide (NaOH) (288.5 g, 7.2 mol) was dissolved in deionized water (3850 ml). This mixture was added to the reaction mixture contained in the 22 liter flask. A temperature increase to 40° C. was noted. Heating of the reaction mixture was started and when the reaction temperature had increased to 50° C. it was noted that all of the solids in the reaction mixture had dissolved. A temperature of 50° C. was maintained in the reaction mixture for a period of 1.5 hours. The reaction flask was then set up for vacuum distillation. 2200 ml of distillate were collected at a vapor temperature of 55° C. (10 mm Hg) before the distillation was discontinued. The reaction flask was then placed in an ice/water bath and concentrated hydrochloric acid (HCl) (752 ml) was added over a period of 45 minutes. During this addition the reaction mixture was noted to have thickened somewhat and an additional 4 liters of deionized water was added to aid the stirring of the reaction mixture. The reaction mixture was then vacuum filtered and the filter cake was washed with 3 liters of deionized water. After drying in vacuo at room temperature 456.7 g (83.5%) of N-(5-chlorosalicyloyl)-8-aminocaprylic acid was isolated.

reactant | Ethyl 8-(6-chloro-2H-1,3-benzoxazine-2,4(3H)-dionyl)octanoate | 1.7 mol, 641 g | ClC=1C=CC2=C(C(N(C(O2)=O)CCCCCCCC(=O)OCC)=O)C1 | C18H22ClNO5
reactant | ethyl alcohol | 3200 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 7.2 mol, 288.5 g | [OH-].[Na+]
solvent | water | 3850 ml | O | H2O
product | N-(5-chlorosalicylovl)-8-aminocaprylic Acid | ClC1=CC=C(C(C(=O)NCCCCCCCC(=O)O)=C1)O | C15H20ClNO4
